US07238689B2
A solution of 0.82 g (4.2 mmoles) of (3,5-dichloro-1-ethyl-1H-pyrazol-4-yl)methanol dissolved in 50 ml of diethyl ether was cooled to −30° C. Thereto was added 1.3 g (4.8 mmoles) of phosphorus tribromide. The mixture was stirred at room temperature for 12 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 0.9 g (yield: 81.8%) of 4-bromomethyl-3,5-dichloro-1-ethyl-1H-pyrazole as a yellow oily substance.

reactant | (3,5-dichloro-1-ethyl-1H-pyrazol-4-yl)methanol | 4.2 mmoles, 0.82 g | ClC1=NN(C(=C1CO)Cl)CC | C6H8Cl2N2O
reactant | phosphorus tribromide | 4.8 mmoles, 1.3 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-bromomethyl-3,5-dichloro-1-ethyl-1H-pyrazole | 0.9 g, yield: 81.8% | BrCC=1C(=NN(C1Cl)CC)Cl | C6H7BrCl2N2
